US07642264B2
2-(3-Bromo-phenyl)-4-(3,4-difluoro-phenyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 2-chloro-4-(3,4-difluoro-phenyl)-6-trifluoromethyl-pyrimidine (example A.46) (1.50 g, 5.1 mmol) and commercially available 3-bromo-benzene-boronic acid (1.23 g, 6.12 mmol) according to the general procedure IVb. Obtained as a white solid (1.23 g, 58%). MS (EI) 416.0 [(M)+]; mp 103° C.

reactant | 2-chloro-4-(3,4-difluoro-phenyl)-6-trifluoromethyl-pyrimidine | 5.1 mmol, 1.50 g | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)F)F)C(F)(F)F | C11H4ClF5N2
reactant | 3-bromo-benzene-boronic acid | 6.12 mmol, 1.23 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 2-(3-Bromo-phenyl)-4-(3,4-difluoro-phenyl)-6-trifluoromethyl-pyrimidine | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)F)F)C(F)(F)F | C17H8BrF5N2
